US07888349B2
A solution of tert-butyl 2-[(3-nitroquinolin-4-yl)amino]ethylcarbamate (20.0 g, 60.2 mmol) in a 2:1 mixture of dichloromethane:methanol (500 mL) was added to a Parr vessel. The system was purged with nitrogen, and 5% platinum on carbon (7.04 g, 36.1 mmol) was added. The vessel was placed under hydrogen pressure (50 psi, 3.4×105 Pa) and shaken overnight. The reaction mixture was filtered and concentrated under reduced pressure to provide 15.65 g of tert-butyl 2-[(3-aminoquinolin-4-yl)amino]ethylcarbamate.

reactant | tert-butyl 2-[(3-nitroquinolin-4-yl)amino]ethylcarbamate | 60.2 mmol, 20.0 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H20N4O4
reactant | dichloromethane | ClCCl | CH2Cl2
catalyst | platinum on carbon | 36.1 mmol, 7.04 g | [Pt] | Pt
solvent | methanol | 500 mL | CO | CH4O
product | tert-butyl 2-[(3-aminoquinolin-4-yl)amino]ethylcarbamate | 15.65 g | NC=1C=NC2=CC=CC=C2C1NCCNC(OC(C)(C)C)=O | C16H22N4O2
